US04705866
A mixture of 2,4,6-tribromoaniline (1.20g, 3.64 mmol), maleic anhydride (0.83g, 8.5 mmol) and tin(II) chloride (0.064g, 0.34 mmol) is heated to 142° C. with mixing and held at this temperature for 1.9 hours. The reaction mixture is cooled, extracted with xylene, filtered and the resulting filtrate water washed. Solvent removal yielded N-(2,4,6-tribromophenyl)maleimide. Analysis by High Pressure Liquid Chromatography (HPLC) showed conversion of 2,4,6-tribromoaniline to be 99.9% and selectivity to N-(2,4,6-tribromophenyl)maleimide based on reacted 2,4,6-tribromoaniline of 75.0%.

reactant | 2,4,6-tribromoaniline | 3.64 mmol, 1.20g | BrC1=C(N)C(=CC(=C1)Br)Br | C6H4Br3N
reactant | maleic anhydride | 8.5 mmol, 0.83g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | tin(II) chloride | 0.34 mmol, 0.064g | [Sn](Cl)Cl
product | N-(2,4,6-tribromophenyl)maleimide | BrC1=C(C(=CC(=C1)Br)Br)N1C(C=CC1=O)=O | C10H4Br3NO2
